US07534894B2
A mixture of 4′-hydroxy-4-nitro-biphenyl (4.12 g, 19.1 mmol), prepared in step 2 of Example 16, 2-hydroxy-3-phenyl-propionic acid methyl ester (3.35 g, 18.5 mmol) and triphenylphosphine (4.12 g, 19.1 mmol) in diethyl ether was cooled under nitrogen to 0° C. Diisopropyl azodicarboxylate (6.09 mL, 30.96 mmol) was then added and the reaction allowed to come to room temperature and then stirred overnight at room temperature. The reaction was concentrated under reduced pressure. Purification of the residue on silica gel using 15% ethyl acetate hexanes as the eluent gave 2-(4′-nitro-biphenyl-4-yloxy)-3-phenyl-propionic acid methyl ester.

reactant | 4′-hydroxy-4-nitro-biphenyl | 19.1 mmol, 4.12 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO3
reactant | 2-hydroxy-3-phenyl-propionic acid methyl ester | 18.5 mmol, 3.35 g | COC(C(CC1=CC=CC=C1)O)=O | C10H12O3
reactant | triphenylphosphine | 19.1 mmol, 4.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 30.96 mmol, 6.09 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4′-nitro-biphenyl-4-yloxy)-3-phenyl-propionic acid methyl ester | COC(C(CC1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C22H19NO5
